US05602253
(iv) (3RS)-1-benzyl-3-aminoethyl pyrrolidine
14.7 g (0.0734 mole) (3RS)-1-benzyl-3-cyanomethyl pyrrolidine dissolved in 220 ml diethyl ether was slowly added to a slurry of 2.94 g of lithium aluminium hydride in 74 ml diethyl ether under an argon atmosphere. The mixture was stirred over night, and 6 ml water, 18 ml 3.75M NaOH-solution and 6 ml water was added to the mixture. The slurry was dried from excess of water with Na2SO4 /cellite, filtered by suction and evaporated to yield 14.84 g (99%) of the product.

reactant | (3RS)-1-benzyl-3-cyanomethyl pyrrolidine | 0.0734 mole, 14.7 g | C(C1=CC=CC=C1)N1CC(CC1)CC#N | C13H16N2
reactant | lithium aluminium hydride | 2.94 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 6 ml | O | H2O
reactant | NaOH | 3.75M, 18 ml | [OH-].[Na+]
reactant | water | 6 ml | O | H2O
solvent | diethyl ether | 220 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 74 ml | C(C)OCC | C4H10O
product | (3RS)-1-benzyl-3-aminoethyl pyrrolidine | 14.84 g, 99% | C(C1=CC=CC=C1)N1CC(CC1)CCN | C13H20N2
